US08034812B2
Production of N-[2-chloro-5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-1-ethyl-3-methyl-1H-pyrazole-4-carboxamide
Using 1-ethyl-3-methyl-1H-pyrazole-4-carboxylic acid (188 mg, 1.22 mmol), tetrahydrofuran (4.5 mL), N,N-dimethylformamide (30 μL, 0.39 mmol), oxalyl chloride (107 μL, 1.22 mmol), N-[6-(3-amino-4-chlorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide (300 mg, 0.87 mmol) and N,N-dimethylacetamide (6.0 mL), and in the same manner as in Example 249, the title compound (135 mg, 33%) was obtained as a white powder. melting point 200° C.

reactant | 1-ethyl-3-methyl-1H-pyrazole-4-carboxylic acid | 1.22 mmol, 188 mg | C(C)N1N=C(C(=C1)C(=O)O)C | C7H10N2O2
reactant | N,N-dimethylformamide | 0.39 mmol, 30 μL | CN(C=O)C | C3H7NO
reactant | oxalyl chloride | 1.22 mmol, 107 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[6-(3-amino-4-chlorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 0.87 mmol, 300 mg | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C=CC1Cl | C16H14ClN5O2
solvent | N,N-dimethylacetamide | 6.0 mL | CN(C(C)=O)C | C4H9NO
solvent | tetrahydrofuran | 4.5 mL | O1CCCC1 | C4H8O
product | N-[2-chloro-5-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)phenyl]-1-ethyl-3-methyl-1H-pyrazole-4-carboxamide | 135 mg, 33% | ClC1=C(C=C(C=C1)OC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2)NC(=O)C=2C(=NN(C2)CC)C | C23H22ClN7O3
